US03956492
7-Chloro-5-(2'-chloro-phenyl)-1,3-dihydro-3-(dimethylaminomethylene)-1-methyl-2H-1,4-benzodiazepin-2-one by method A
A suspension of 55 gm of 7-chloro-5-(2'-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one in 85 ml of N,N-dimethyl-formamide diethylacetal was heated to 130°C in a vessel equipped with a descending condenser, whereby a clear solution was formed after a short time. The temperature of the reaction solution was maintained at 130°C for 41 hours, during which time the ethanol formed by the reaction slowly distilled over. Thereafter, the reaction solution was cooled to about 80°C and then admixed with 50 ml of isopropanol. Upon further cooling of the mixture, a reddish-orange crystalline substance separated out which was collected by vacuum filtration, washed with petroleum ether and recrystallized from isopropanol, whereupon it had a melting point of 202°-203°C. It was identified to be the compound of the formula ##SPC5##

reactant | 7-chloro-5-(2'-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 55 gm | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)Cl)C1 | C16H12Cl2N2O
reactant | ethanol | C(C)O | C2H6O
solvent | N,N-dimethyl-formamide diethylacetal | 85 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 7-Chloro-5-(2'-chloro-phenyl)-1,3-dihydro-3-(dimethylaminomethylene)-1-methyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NC(C(N2C)=O)=CN(C)C)C2=C(C=CC=C2)Cl)C1 | C19H17Cl2N3O
